*independent voltage source with DC value, AC value, and
*transient square wave value:
V1 1 0 1 AC 1 pulse -10 20 0 1.e-8 1.e-8 1e-3 2e-3
*the square wave defined above has -10V to +20V extent, with
*a period of 2 milliseconds
*capacitor for clamping
C1 1 2 1e-6
*diode for clamp - model name is dclamp
D1 2 0 dclamp
*load resistor - large enought that RC >> 2 ms
R1 2 0 1e5
*model for diode
.model dclamp D(IS=1e-14)
*DC transfer function generated for this circuit
.DC V1 -20 20 .1
*AC frequency sweep - assumes circuit is biased with V1 = 1V
.AC OCT 20 10 1e2 1e4
*frequency is swept logarithmically from 100Hz to 10000Hz
*transient analysis will show clamping
.TRAN 1e-4 8e-3 0 1e-5
*start at time zero, go for 8 ms, make internal steps 10 microsec
*save print data at .1 ms intervals
*that